US05958944
Thionyl chloride (7 ml) and dimethylformamide (1 drop) were added to a solution of (R)-4-(1-benzyloxycarbonylaminoethyl)-3-fluorobenzoic acid (520 mg) in dichloromethane (7 ml), and the mixture was stirred at room temperature for 4 hours. After the reaction, the solvent was evaporated under reduced pressure to give (R)-4-(1-benzyloxycarbonylaminoethyl)-3-fluorobenzoyl chloride as crystals. Then, the crystals were dissolved in dichloromethane (12 ml), and the solution was dropwise added to a solution of 4-aminopyridine (140 mg) and diisopropylethylamine (210 mg) in dichloromethane (5 ml) at room temperature, and the mixture was stirred for 1 hour. After the reaction, water was added to the reaction mixture, and the mixture was extracted with chloroform. The mixture was washed with water and dried. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=20:1) to give 560 mg of (R)-N-(4-pyridyl)-4-(1-benzyloxycarbonylaminoethyl)-3-fluorobenzamide.

reactant | Thionyl chloride | 7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (R)-4-(1-benzyloxycarbonylaminoethyl)-3-fluorobenzoic acid | 520 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C1=C(C=C(C(=O)O)C=C1)F | C17H16FNO4
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | (R)-4-(1-benzyloxycarbonylaminoethyl)-3-fluorobenzoyl chloride | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C1=C(C=C(C(=O)Cl)C=C1)F | C17H15ClFNO3
